US06972287B1
Preparation of 1,2-Dichloro-4-[5-(4-nitrophenyl)-1-pentenyl]benzene
A solution of bromo[(3,4-dichlorophenyl)methyl]triphenylphosphine (3.95 g, 7.9 mmol) in dry THF (20 mL) was cooled to 0° C. LHDMS (1.0 M/THF, 9 ml, 9.0 mol) was added dropwise to maintain the temperature at 0° C. After stirring for 30 minutes, a solution of 4-(4-nitro-phenyl)butyraldehyde (1.45 g, 7.5 mmol) in TBF (5 mL) was added dropwise, and the mixture was allowed to warm to room temperature within 2 hours. The mixture was then quenched with H2O and extracted with EtOAc. The organic layers were washed with 0.1N HCl solution, H2O, brine, dried (Na2SO4), filtered, and concentrated in vacuo to give a lightly brown oil. Purification by flash chromatography (silica gel, 10% EtOAc/hexane) yielded 2.5 g (7.4 mmol, 99%) of the desired product.

reactant | bromo[(3,4-dichlorophenyl)methyl]triphenylphosphine | 7.9 mmol, 3.95 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)CC1=CC(=C(C=C1)Cl)Cl | C25H20BrCl2P
reactant | 4-(4-nitro-phenyl)butyraldehyde | 7.5 mmol, 1.45 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC=O | C10H11NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,2-Dichloro-4-[5-(4-nitrophenyl)-1-pentenyl]benzene | 7.4 mmol, 2.5 g, 99% | ClC1=C(C=C(C=C1)C=CCCCC1=CC=C(C=C1)[N+](=O)[O-])Cl | C17H15Cl2NO2
